US09163042B2
Preparation of 2-(4-fluoro-2-methoxyphenoxy)-N-(2-oxo-1,2-dihydropyridin-4-yl)-4-(perfluoroethyl)benzamide (2a)
Cs2CO3 (69.8 mg, 0.21 mmol) was added to a solution of 2-fluoro-N-(2-oxo-1,2-dihydropyridin-4-yl)-4-(perfluoroethyl)benzamide (25 mg, 0.07 mmol) and 4-fluoro-2-methoxyphenol (24.4 μL, 0.2 mmol) in NMP (0.3 mL) and the reaction was stirred at 100° C. for 45 minutes. The reaction mixture was poured into water:ethyl acetate (9:1). The mixture was shaken, and the solid was filtered off, washed with ether, then triturated with ethyl acetate and dried to give the desired product. The mother liquors were filtered and washed with ethyl acetate to give a second crop of material. Both solids were combined and dried under vacuum to give 2-(4-fluoro-2-methoxy-phenoxy)-N-(2-oxo-1H-pyridin-4-yl)-4-(1,1,2,2,2-pentafluoroethyl)benzamide (2a) (15.4 mg, 45%) as a white solid. ESI-MS m/z calc. 472.08, found 473.3 (M+1)+; Retention time: 1.62 minutes. 1H NMR (400 MHz, DMSO-d6) δ 11.32 (s, 1H), 10.62 (s, 1H), 7.83 (d, J=7.9 Hz, 1H), 7.51 (d, J=7.9 Hz, 1H), 7.39-7.27 (m, 2H), 7.17 (dd, J=10.7, 2.8 Hz, 1H), 6.88 (dd, J=11.3, 5.7 Hz, 1H), 6.81 (s, 1H), 6.75 (s, 1H), 6.43 (d, J=7.1 Hz, 1H), 3.73 (s, 3H) ppm.

reactant | Cs2CO3 | 0.21 mmol, 69.8 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-fluoro-N-(2-oxo-1,2-dihydropyridin-4-yl)-4-(perfluoroethyl)benzamide | 0.07 mmol, 25 mg | FC1=C(C(=O)NC2=CC(NC=C2)=O)C=CC(=C1)C(C(F)(F)F)(F)F | C14H8F6N2O2
reactant | 4-fluoro-2-methoxyphenol | 0.2 mmol, 24.4 μL | FC1=CC(=C(C=C1)O)OC | C7H7FO2
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | NMP | 0.3 mL | CN1CCCC1=O | C5H9NO
product | 2-(4-fluoro-2-methoxyphenoxy)-N-(2-oxo-1,2-dihydropyridin-4-yl)-4-(perfluoroethyl)benzamide | FC1=CC(=C(OC2=C(C(=O)NC3=CC(NC=C3)=O)C=CC(=C2)C(C(F)(F)F)(F)F)C=C1)OC | C21H14F6N2O4
